US09102774B2
To 30.0 g (267 mmoles, 3 eq) of 1-octene was added 0.802 g (5.35 mmoles, 0.06 eq) of trifluoromethanesulfonic acid followed by 7.67 g (89.1 mmoles, 1 eq) of methacrylic acid. This mixture was heated to 90° C. for 6 hours. By NMR, the yield was 81% based on acrylic acid consumed. To the reaction mixture was added 36.16 g of a saturated solution of sodium bicarbonate in water (8.28 wt-%, 35.6 mmoles, 0.4 eq) and the mixture was stirred at room temperature for 1 hour. The aqueous phase was removed and the residue was distilled at 25° C./10-20 torr. The receiver was cooled with dry ice to trap the octene. This gave 14 grams of recovered octene. The product was distilled at 103° C./1.0 torr to give 14.7 g of octyl methacrylate (83.2% yield based on acrylic acid consumed).

reactant | 1-octene | 267 mmoles, 30.0 g, 3 eq | C=CCCCCCC | C8H16
reactant | methacrylic acid | 89.1 mmoles, 7.67 g, 1 eq | C(C(=C)C)(=O)O | C4H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | 35.6 mmoles, 0.4 eq | O | H2O
catalyst | trifluoromethanesulfonic acid | 5.35 mmoles, 0.802 g, 0.06 eq | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | octyl methacrylate | 14.7 g, 83.2% yield | C(C(=C)C)(=O)OCCCCCCCC | C12H22O2
